US06921763B2
A mixture of tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-azetanecarboxylate (0.15 g, 0.00036 mol), N-(5,7-dimethyl-1,3-benzoxazol-2-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (0.16 g, 0.00045 mol), tetrakis(triphenylphosphine)palladium (0.021 g, 0.000018 mol) and sodium carbonate (0.095 g, 0.0009 mol) in ethylene glycol dimethyl ether (5 mL) and water (2 mL) was heated at 80° C. for 16 hours under an atmosphere of nitrogen. The reaction was cooled to room temperature. Additional tetrakis(triphenylphosphine)palladium (0.021 g, 0.000018 mol) was added to the mixture. The reaction was stirred at 80° C. for 3 hours. The mixture was allowed to cool to ambient temperature, and the solvent was removed under the reduced pressure. The residue was partitioned between water and dichloromethane. The aqueous layer was extracted with dichloromethane (3×50 mL). The combined organic extracts were washed with water, saturated aqueous sodium bicarbonate solution, and brine, and dried over magnesium sulfate. The solvents were evaporated under the reduced pressure to leave a brownish solid which was purified by flash column chromatography on silica using 5%-50% methanol t dichloromethane as a mobile phase to give tert-butyl 3-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-azetanecarboxylate (0.033 g, 0.00006 mol). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-95% acetonitrile-0.1 M ammonium acetate over 10 min, 1 mL/min) Rt 11.6 min. MS: MH+ 527.

reactant | tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-azetanecarboxylate | 0.00036 mol, 0.15 g | NC1=C2C(=NC=N1)N(N=C2I)C2CN(C2)C(=O)OC(C)(C)C | C13H17IN6O2
reactant | N-(5,7-dimethyl-1,3-benzoxazol-2-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.00045 mol, 0.16 g | CC=1C=C(C2=C(N=C(O2)NC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C1)C | C21H25BN2O3
reactant | sodium carbonate | 0.0009 mol, 0.095 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.000018 mol, 0.021 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium | 0.000018 mol, 0.021 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 3-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-azetanecarboxylate | 0.00006 mol, 0.033 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)C1CN(C1)C(=O)OC(C)(C)C | C28H30N8O3
